US07662771B2
4-[5-(2-methoxy-phenyl)-isoxazol-3-yl]-butyric acid
Add a solution of LiOH (0.98 g, 40.86 mmol) in water (30 mL) to a rapidly stirred solution of 4-[5-(2-Methoxy-phenyl)-isoxazol-3-yl]-butyric acid methyl ester (2.25 g, 8.17 mmol) in dioxane (60 mL), stir at room temperature overnight Quench with 1N HCl solution and concentrate to remove the majority of the dioxane. Add 1N NaOH to adjust pH to 4-5, extract with EtOAc (×2). Dry combined organic layers over MgSO4 and concentrate to get 2.15 g yellow oil. Recrystallize from EtOAc/hexanes to afford the title compound (1.67 g, 78%). MS (IS) 262 (M+1)+.

reactant | LiOH | 40.86 mmol, 0.98 g | [Li+].[OH-]
reactant | 4-[5-(2-Methoxy-phenyl)-isoxazol-3-yl]-butyric acid methyl ester | 8.17 mmol, 2.25 g | COC(CCCC1=NOC(=C1)C1=C(C=CC=C1)OC)=O | C15H17NO4
solvent | water | 30 mL | O | H2O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 4-[5-(2-methoxy-phenyl)-isoxazol-3-yl]-butyric acid | 2.15 g | COC1=C(C=CC=C1)C1=CC(=NO1)CCCC(=O)O | C14H15NO4
